*
R1 OUT N001 R=20
C1 OUT 0 1p
V1 IN1 0 4
R2 0 IN1 20
B1 N001 0 V=V(IN1)
V2 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
V3 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
V4 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
V5 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
V6 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
V7 CLK1 0 PULSE(0 1 {t_delay} 1n 1n {t_on+t_delay} {t_period} 1)
V8 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
V9 CLK0 0 PULSE(0 1 {t_delay} 1n 1n {t_0n} {t_period} 1)
.tran 1m 10m
.param V = {if(4>0.5,1,2)}
;TIMINGS
.param t_delay 0.1m
.param t_on 0.5m
.param t_period 10m
.backanno
.end
