* /Users/johnlimjsj/Documents/LTspice/FYP/capSense.asc
XX1 phi1 phi1_ Vdd powerbench params: Vmax=5 Ton=0.05m Tp=0.5m
C4 c4_ic 0 {Cin}
S1 c4_ic NC_01 p2 0 SW
Cf c5_ic N001 Q={V(cvar)*c_f_base*c_scale*x}
S2 c5_ic N001 reset 0 SW
S4 Vosc c4_ic p1 0 SW
V3 reset 0 PULSE(0 {v_on} {reset_offset} {t_rise} {t_fall} {reset_t_on} {t_period} {cycle})
V4 p2 0 PULSE(0 {v_on} {p2_offset} {t_rise} {t_fall} {t_on} {t_period} {cycle})
V8 Input 0 1.5
V9 p1 0 PULSE(0 {v_on} {p1_offset} {t_rise} {t_fall} {t_on} {t_period} {cycle})
XU1 Vout ch_ic Vout opamp Aol=100K GBW=10Meg
S3 c5_ic ch_ic sam 0 SW
Ch ch_ic 0 {c_hold_base*c_scale}
V1 sam 0 PULSE(0 {v_on} {sam_offset} {t_rise} {t_fall} {sam_t_on} {t_period} {cycle})
V2 Vcc 0 15
V5 0 Vee 15
S5 Input cref_ic p1 0 SW
S6 cref_ic 0 p2 0 SW
S7 Input csense_ic p2 0 SW
S8 csense_ic 0 p1 0 SW
Csense N001 csense_ic {Cin}
Cref cref_ic N001 {c_in_base*c_scale}
XU2 0 N002 Vcc Vee Vlt1001 LT1001
R1 N002 N003 R=11-time*0.1
V6 N003 0 AC 1
R3 N004 N005 1k
V7 N005 0 5 AC 1
XU4 N004 0 Videal opamp Aol=10K GBW=10Meg
XU3 N001 0 c5_ic opamp Aol=100K GBW=10Meg
V10 cvar 0 SINE(1 0.5 10000)
Csense1 ctest_ic 0 Q=(V(cvar)/1000000)*x
R2 ctest_ic cvar 1k

* block symbol definitions
.subckt powerbench phi1 phi1_ Vdd
V4 Vdd 0 {Vmax}
V1 phi1 0 PULSE(0 {Vmax} 0 0 0 {Ton} {Tp})
M1 phi1_ phi1 0 0 NMOS
R2 Vdd phi1_ 10meg
.ends powerbench

.model NMOS NMOS
.model PMOS PMOS
.lib /Users/johnlimjsj/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran {5m*scale} {10m*scale}
.model SW SW(Ron=0.001 Roff=10g Vt=1.1 Vh=0.1)
.ic V(Vci) = 0
.ic V(c4_ic)=0
.ic V(c5_ic)=0
.ic V(c6_ic)=0
.ic V(cref_ic)=0
.ic V(csense_ic)=0
.ic V(ch_ic)=0
.ic V(ctest_ic)=0
.step param Cx list 1 2
.lib opamp.sub
* .ac oct 100 1 10000k
.param v_on 5
.param t_period {1m*scale}
.param t_on {0.48m*scale}
.param t_rise {1n*scale}
.param t_fall {1n*scale}
.param cycle 1000
.param p1_offset {0}
.param p2_offset {p1_offset+t_on*1.05}
.param sam_offset {p1_offset+1.5*t_on}
.param reset_offset {0}
.param sam_t_on {t_on*0.25}
.param reset_t_on {t_on*0.25}
.param scale 0.01
* timing params
* Analysis Commands
* Initial Capacitor Conditions
* Model Definitions
* Changing Input
.param c_scale 0.1
* Capacitance Scale
.param c_in_base 2u
.param c_f_base 1u
.param c_hold_base 0.5u
* Capacitance Scale
.param Cin table {Cx, 1, c_in_base*c_scale, 2, c_in_base*c_scale*0.8, 3, c_in_base*c_scale*0.6}
.param v_time 3
.lib LTC.lib
.backanno
.end
